US05547954
In a slight variation in the method to the 2,4-diamino-5,6-disubstituted-5-deazapteridines described above, using a method taught by A. Pidcock et al (J. Organometallic Chem. 1981, 215, 49-58), 4-bromo-2,3-dihydro-2,2-dimethyl-3-benzofuranone is reacted with hexamethylditin in the presence of tetrakis(triphenylphosphine)palladium(0)in toluene, yielding (2,3-dihydro-2,2-dimethyl-3-benzofuranon-4-yl)tin. The organometallic derivative is then reacted with 2-amino-3-cyano-5-iodo-4-methylpyridine, again in the presence of tetrakis(triphenylphosphine)palladium(0) in toluene, affording the corresponding 2-amino-3-cyano-5-(2,3-dihydro-2,2-dimethyl-3-benzofuranon-4-yl)-4-methylpyridine. This compound is then cyclized with guanidine in ethanol, as previously described, yielding the corresponding 2,4-diamino-5-methyl-6-(2,3-dihydro-2,2-dimethyl-3-benzofuranon-4-yl)-5-deazapteridine. Example 9 provides a detailed description of how this reaction is conducted.

reactant | 4-bromo-2,3-dihydro-2,2-dimethyl-3-benzofuranone | BrC1=CC=CC2=C1C(C(O2)(C)C)=O | C10H9BrO2
reactant | hexamethylditin | C[Sn](C)C.C[Sn](C)C
product | (2,3-dihydro-2,2-dimethyl-3-benzofuranon-4-yl)tin | CC1(OC2=C(C1=O)C(=CC=C2)[Sn])C | InChI=1S/C10H9O2.Sn/c1-10(2)9(11)7-5-3-4-6-8(7)12-10;/h3-4,6H,1-2H3;
